US08389527B2
A microwave tube was charged with 6-chloro-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (35 mg, 0.075 mmol), DL-alpha-Amino-epsilon-caprolactam (96 mg, 0.750 mmol), and NMP (1 mL). The reaction mixture was irradiated (300 W) at 100° C. for 40 minutes. The crude reaction product was dissolved in a small amount of MeOH and purified by reversed phase HPLC (YMC ODS-A 5 um 30×250 mm, 10-90% aqueous methanol containing 0.1% TFA, 25 mL/min, 30 min gradient, monitored at 220 nm). The product (retention time=35.053 minutes) was isolated and lyophilized to dryness. The resulting material was dissolved in DCM (2 mL) and treated with TFA (0.5 mL, 6.49 mmol). Reaction was stirred at room temperature for three hours, and then concentrated to dryness. The crude reaction product was dissolved in a small amount of MeOH and purified by reversed phase HPLC(YMC ODS-A 5 um 30×250 mm, 10-90% aqueous methanol containing 0.1% TFA, 25 mL/min, 30 min gradient, monitored at 220 nm). The product (retention time=30.556 minutes) was isolated and lyophilized to dryness to afford 8-(cyclopropylamino)-N-(3-fluoropyridin-4-yl)-6-(2-oxoazepan-3-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide (7 mg, 13.73%). 1H NMR (400 MHz, DMSO) δ ppm 11.24 (1H, s), 8.73 (1H, d, J=2.77 Hz), 8.45 (1H, d, J=5.54 Hz), 8.39 (1H, t), 8.01 (1H, s), 7.84 (1H, t, J=6.04 Hz), 7.66 (1H, s), 6.99 (1H, s), 6.31 (1H, s), 4.54 (1H, d, J=9.57 Hz), 2.98-3.24 (3H, m), 1.80-2.02 (2H, m), 1.67 (1H, d, J=14.10 Hz), 1.37-1.59 (2H, m), 1.20-1.32 (1H, m), 0.73-0.85 (2H, m), 0.54-0.70 (2H, m). HPLC Rt=3.633 min (YMC S5 ODS 4.6×50 mm, 10-90% aqueous methanol containing 0.2% H3PO4, 4 min gradient, monitored at 220 nm). [M+H+]=439.0.

reactant | 6-chloro-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.075 mmol, 35 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=C(C=NC=C2)F)N(CC2=CC=C(C=C2)OC)C2CC2 | C23H20ClFN6O2
reactant | DL-alpha-Amino-epsilon-caprolactam | 0.750 mmol, 96 mg | C1CCNC(=O)C(C1)N | C6H12N2O
reactant | NMP | 1 mL | CN1CCCC1=O | C5H9NO
reactant | TFA | 6.49 mmol, 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | CO | CH4O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 8-(cyclopropylamino)-N-(3-fluoropyridin-4-yl)-6-(2-oxoazepan-3-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 7 mg, 13.73% | C1(CC1)NC=1C=2N(N=C(C1)NC1C(NCCCC1)=O)C(=CN2)C(=O)NC2=C(C=NC=C2)F | C21H23FN8O2
